US08865713B2
Step E: 1-[5-Chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid.
To a solution of 1-[5-chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.179 mg, 0.451 mmol), THF (1.7 mL), and water (0.55 mL) was added LiOH.H2O (56.8 mg, 1.35 mmol). The mixture was sonicated briefly, and stirred at 23° C. for 56 h. The solvent was evaporated, water was added, and the resulting solution was acidified to pH 1 with 1M aq. HCl. The precipitate was collected to yield the titled compound (0.146 g, 86% yield). MS (ESI/CI): mass calcd. for C14H13ClN4O4S, 368.0; m/z found, 369.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6, tautomeric broadening): 14.07 (s, 1H), 13.03 (s, 1H), 8.95 (d, J=0.4 Hz, 1H), 8.36 (s, 1H), 8.16 (s, 1H), 8.09-7.64 (m, 1H), 3.88-3.76 (m, 1H), 1.22 (d, J=7.9 Hz, 6H).

reactant | 1-[5-chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.451 mmol, 0.179 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)Cl)S(=O)(=O)C(C)C | C16H17ClN4O4S
reactant | THF | 1.7 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 1.35 mmol, 56.8 mg | O[Li].O
solvent | water | 0.55 mL | O | H2O
product | 1-[5-Chloro-6-(propane-2-sulfonyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid | 0.146 g, 86% yield | ClC1=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C=C1S(=O)(=O)C(C)C | C14H13ClN4O4S
